US05905071
12g N-[2-(N-Carbobenzoxy-L-glutaminyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide and N-carbobenzoxy-L-glutamine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C34H67N3O6
reactant | N-carbobenzoxy-L-glutamine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(N)=O)C(=O)O | C13H16N2O5
product | N-[2-(N-Carbobenzoxy-L-glutaminyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(N)=O)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C47H81N5O10
